US08034811B2
2-[(Pyridin-4-ylmethyl-amino]-nicotinonitrile
To a stirred solution of 2-chloro-nicotinonitrile (Aldrich, 10.4 g, 75.06 mmol) in dry NMP (40 ml) was added 4-(aminomethyl)pyridin (15.2 ml, 150.26 mmol). The reaction mixture was heated to 130° C., and stirred at this temperature for 20 hours. The mixture was cooled to room temperature and diluted with EtOAc (500 ml) and washed with saturated aqueous NaHCO3, water and brine. The organic layer was dried (Na2SO4) and evaporated under reduced pressure. The remaining red-brown solid material was recrystallised from ethanol affording the title compound (7.73 g) as an off-white solid. The filtrate was evaporated under reduced pressure, redissolved in 2% methanol/EtOAc (v/v) and filtrated through a pad of silica gel. The filtrate was evaporated under reduced pressure and the residue was recrystallised from ethanol and gave an additional amount of the title compound (2.44 g).

reactant | 2-chloro-nicotinonitrile | 75.06 mmol, 10.4 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 4-(aminomethyl)pyridin | 150.26 mmol, 15.2 ml | NCC1=CC=NC=C1 | C6H8N2
solvent | NMP | 40 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | (Pyridin-4-ylmethyl-amino]-nicotinonitrile | 2.44 g | N1=CC=C(C=C1)CNC1=C(C#N)C=CC=N1 | C12H10N4
